US07312225B2
12a) Production of 4-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-butan-1-ol
A solution of 2.28 g (10.0 mmol) of 5-bromo-2,4-dichloro-pyrimidine and 1.7 ml (12.0 mmol) of triethylamine in 10 ml of acetonitrile is mixed at 0° C. with 1.1 ml (12.0 mmol) of 4-amino-butanol. The reaction mixture is slowly heated to room temperature while being stirred by removal of the ice bath. After 16 hours, the precipitate that is formed is filtered off. The filtrate is completely concentrated by evaporation and digested with diisopropyl ether. 2.74 g (9.8 mmol, corresponding to 98% of theory) of the product is obtained.

reactant | 5-bromo-2,4-dichloro-pyrimidine | 10.0 mmol, 2.28 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 12.0 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-amino-butanol | 12.0 mmol, 1.1 ml | NCCCCO | C4H11NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-butan-1-ol | BrC=1C(=NC(=NC1)Cl)NCCCCO | C8H11BrClN3O
